US07312214B2
Part A. δ-Valerolactam (22.22 g, 222.89 mmol) was stirred in CHCl3 (500 mL) at 0° C. PCl5 (140.0 g, 68.29 mmol) was added portionwise. The resulting slurry was stirred at reflux for 3 h until the solution became clear. The mixture was cooled in an ice bath and H2O was added carefully until the PCl5 was quenched completely. The two layers were separated. The organic layer was washed with H2O (3×) and brine (2×), dried over MgSO4, filtered, and concentrated to dryness to give 3,3-dichloro-2-piperidinone (31.63 g, yield: 85%). This solid (16.50 g, 98.80 mmol) was dissolved in DMF (20 mL), and Li2CO3 (21.93 g, 296.40 mmol, 3.0 eq) was added. The mixture was stirred at 120° C. for 1 day. The solvent was further concentrated, and 1N HCl was added to acidify the mixture. It was then extracted with CHCl3 (6×). The organic layers were washed with H2O, brine, dried over MgSO4, and concentrated to dryness to give almost pure 3-chloro-5,6-dihydro-2(1H)-pyridinone (11.13 g, 87%).

reactant | δ-Valerolactam | 222.89 mmol, 22.22 g | C1(CCCCN1)=O | C5H9NO
reactant | PCl5 | 68.29 mmol, 140.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | H2O | O | H2O
reactant | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 3,3-dichloro-2-piperidinone | 31.63 g, yield: 85% | ClC1(C(NCCC1)=O)Cl | C5H7Cl2NO
